US05134111
(a) Preparation of ethyl (E)-3-(5-ethyl-3-methoxy-4-methoxymethoxy-1-naphthyl)-2-methylpropenoate
36 g of 60% sodium hydride was suspended in 500 ml of N,N-dimethylformamide and 268 g of triethyl 2-phosphonopropionate was added at ice bath temperature. After stirring at room temperature for 1 hour, a solution of 206 g of 5-ethyl-3-methoxy-4-methoxymethoxy-1-naphthalenecarbaldehyde was added. After stirring at room temperature for 15 minutes, ice cooled water was gradually added at ice bath temperature. The mixture was extracted with ethyl acetate and the combined organic layer was washed with brine. After drying over anhydrous magnesium sulfate, the solvent was evaporated and the residue was purified by silica gel column chromatography (10% ethyl acetate/hexane) to obtain 262.4 g of the titled compound as a yellow oil (containing a small amount of Z isomer).

reactant | sodium hydride | 36 g | [H-].[Na+]
reactant | triethyl 2-phosphonopropionate | 268 g | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | 5-ethyl-3-methoxy-4-methoxymethoxy-1-naphthalenecarbaldehyde | 206 g | C(C)C1=C2C(=C(C=C(C2=CC=C1)C=O)OC)OCOC | C16H18O4
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | ethyl (E)-3-(5-ethyl-3-methoxy-4-methoxymethoxy-1-naphthyl)-2-methylpropenoate | 262.4 g | C(C)C1=C2C(=C(C=C(C2=CC=C1)/C=C(/C(=O)OCC)\C)OC)OCOC | C21H26O5
